US08461161B2
To a suspension of pyridine-3-sulfonylchloride hydrochloride (94 mg, 0.44 mmol) and N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine (100 mg, 0.4 mmol) in dichloromethane (5 mL) was added triethylamine (0.17 mL, 1.2 mmol) dropwise at room temperature and the mixture was stirred for 17 hours. After this time the mixture was diluted with ethyl acetate (20 mL), washed successively with saturated aqueous sodium hydrogen carbonate (2×20 mL) and brine (20 mL), dried (Na2SO4) and concentrated under reduced pressure to give a yellow oil which was purified by flash chromatography (silica, ethyl acetate/hexanes) to give N-(3-{(1S)-1-[(6-chloropyrazin-2-yl)amino]ethyl}phenyl)pyridine-3-sulfonamide (44 mg, 28%) as a pale yellow foam.

reactant | pyridine-3-sulfonylchloride hydrochloride | 0.44 mmol, 94 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
reactant | N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine | 0.4 mmol, 100 mg | NC=1C=C(C=CC1)[C@H](C)NC1=NC(=CN=C1)Cl | C12H13ClN4
reactant | triethylamine | 1.2 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-{(1S)-1-[(6-chloropyrazin-2-yl)amino]ethyl}phenyl)pyridine-3-sulfonamide | 44 mg, 28% | ClC1=CN=CC(=N1)N[C@@H](C)C=1C=C(C=CC1)NS(=O)(=O)C=1C=NC=CC1 | C17H16ClN5O2S
